US06353006B1
2-Methyl-4-nitrophenyl isothiocyanate was reacted with (1S)-1-amino-1-cyclohexylethane followed by α-chloro-α-phenylacetic acid according to Method C8a to afford 2-(2-methyl-4-nitrophenylimino)-3-((]S)-1-cyclohexylethyl)-5-phenyl-1,3-thiazolidin4-one.

reactant | 2-Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | (1S)-1-amino-1-cyclohexylethane | N[C@@H](C)C1CCCCC1 | C8H17N
reactant | α-chloro-α-phenylacetic acid | ClC(C(=O)O)C1=CC=CC=C1 | C8H7ClO2
product | 5-phenyl-1,3-thiazolidin4-one | C1(=CC=CC=C1)C1C(NCS1)=O | C9H9NOS
